US05206233
Step (a): Preparation of Tetrahydro-7-(4-methoxyphenyl)-1,4-thiazepin-5-one
A mixture of 2-aminoethanethiol hydrochloride (31.0 g, 0.273 mol) and 140 mL of methanol is cooled to 0° C. and treated with pulverized sodium hydroxide (12.0 g, 0.475 mol) followed by trans-methyl 4-methoxycinnamate (52.4 g, 0.273 mol). The reaction mixture is allowed to warm to room temperature and stirred for 5 days. The mixture is then heated to 60° C. for 30 minutes and filtered while still warm. The methanolic solution is concentrated to ca 1/4 volume and the product is isolated by filtration (35 g).

reactant | 2-aminoethanethiol hydrochloride | 0.273 mol, 31.0 g | Cl.NCCS
reactant | sodium hydroxide | 0.475 mol, 12.0 g | [OH-].[Na+]
reactant | trans-methyl 4-methoxycinnamate | 0.273 mol, 52.4 g | COC1=CC=C(/C=C/C(=O)OC)C=C1 | C11H12O3
solvent | methanol | 140 mL | CO | CH4O
product | Tetrahydro-7-(4-methoxyphenyl)-1,4-thiazepin-5-one | COC1=CC=C(C=C1)C1CC(NCCS1)=O | C12H15NO2S
